US07834049B2
Ethyl-8-chloro-4-vinylquinoline-3-carboxylate
Tributylvinyltin (2.8 ml) and tetrakistriphenylphosphinepalladium (171 mg) were added to a toluene solution (20 ml) containing 2.0 g (7.4 mmol) of ethyl-4,8-dichloroquinoline-3-carboxylate obtained in the same manner as in Production Example 4b, followed by stirring for 2 hours under heating under reflux. The reaction solution was filtered through Celite and the filtrate was concentrated. Then, the residue was purified by silica gel chromatography, to give 1.92 g of the title compound.

reactant | Tributylvinyltin | 2.8 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | ethyl-4,8-dichloroquinoline-3-carboxylate | 7.4 mmol, 2.0 g | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)Cl | C12H9Cl2NO2
catalyst | tetrakistriphenylphosphinepalladium | 171 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl-8-chloro-4-vinylquinoline-3-carboxylate | 1.92 g | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1C=C)Cl | C14H12ClNO2
